US05334740
4,5-(Dimethylmethylenedioxy)-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole (327 mg) was dissolved in 10 ml of tetrahydrofuran, and 1 ml of 1N hydrochloric acid was added, followed by stirring the mixture at room temperature for 4 hours. The reaction mixture was diluted with diethyl ether, and neutralized with a sodium hydrogen carbonate aqueous solution. The organic layer was washed with a sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 196 mg of 4,5-dihydroxy-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole having the following property (yield 68%).

reactant | 4,5-(Dimethylmethylenedioxy)-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 327 mg | CC1(OC2C(C(CC=3C2CON3)O[Si](C)(C)C(C)(C)C)O1)C | C16H29NO4Si
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,5-dihydroxy-6-(tert-butyldimethylsilyloxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 196 mg, yield 68% | OC1C(C(CC=2C1CON2)O[Si](C)(C)C(C)(C)C)O | C13H25NO4Si
